US07524840B2
To a stirred mixture of 0.300 g (0.00082 mole) 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-hydroxy-2H-1,4-benzodiazepin-2-one (Ipp) prepared in Example 28, 60 mL of tetrahydrofuran, 0.070 mL of 2-methoxy ethanol, and 0.2586 g of triphenyl phosphine was added 0.194 mL (0.00099 mole) of diisopropyl azodicarboxylate. The mixture was stirred overnight; then, an additional 0.2586 g of triphenyl phosphine, 0.070 mL of 2-methoxy ethanol and 0.194 mL of diisopropyl azodicarboxylate was added. The mixture stirred for an additional hour and then concentrated under reduced pressure. The residue was chromatographed on silica gel eluting with dichloromethane-methanol (98:2) to yield 0.212 g of 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-methoxyethoxy-2H-1,4-benzodiazepin-2-one (Inn). MH+/Z=423.

reactant | 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-hydroxy-2H-1,4-benzodiazepin-2-one | 0.00082 mole, 0.300 g | BrC=1C(=CC2=C(C(=NCC(N2)=O)C2=C(C=CC=C2)Cl)C1)O | C15H10BrClN2O2
reactant | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
reactant | triphenyl phosphine | 0.2586 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.00099 mole, 0.194 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenyl phosphine | 0.2586 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.194 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | 2-methoxy ethanol | 0.070 mL | COCCO | C3H8O2
solvent | 2-methoxy ethanol | 0.070 mL | COCCO | C3H8O2
product | 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-methoxyethoxy-2H-1,4-benzodiazepin-2-one | 0.212 g | BrC=1C(=CC2=C(C(=NCC(N2)=O)C2=C(C=CC=C2)Cl)C1)OCCOC | C18H16BrClN2O3
